US04698345
(a) Ethyl 6-(2-propenyloxy)-1H-indole-2-carboxylate
Ethyl 6-hydroxy-1H-indole-2-carboxylate (4.6 g, 0.02 M) was heated under reflux with allylbromide (3 g, 2.2 ml, 0.025 M), K2CO3 (4.14 g 0.03 M) and acetone (150 ml) for 20 hours. On cooling the mixture was poured into brine and extracted into ethyl acetate, washed with brine, dried over magnesium sulphate and evaporated to dryness. The resulting crude brown solid was purified by extraction into hot 60°-80° petroleum ether to yield a yellow solid which was dried in vacuo, 4 g, 72%, mp 89°-91°.

reactant | Ethyl 6-hydroxy-1H-indole-2-carboxylate | 0.02 M, 4.6 g | OC1=CC=C2C=C(NC2=C1)C(=O)OCC | C11H11NO3
reactant | allylbromide | 0.025 M, 2.2 ml, 3 g | C(C=C)Br | C3H5Br
reactant | K2CO3 | 0.03 M, 4.14 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | 150 ml | CC(=O)C | C3H6O
solvent | brine | [Cl-].[Na+].O
product | Ethyl 6-(2-propenyloxy)-1H-indole-2-carboxylate | C(C=C)OC1=CC=C2C=C(NC2=C1)C(=O)OCC | C14H15NO3
